US08461328B2
A mixture of racemic (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-(1-benzyl-3-methyl-piperidin-4-yl)-amine (1.88 g, 3.7 mmol), iron powder (1.68 g, 30.0 mmol) and triethyl orthoformate (1.66 mL, 10.0 mmol) in acetic acid (20 mL) were heated at 100° C. for 1 hour. The cooled reaction mixture was filtered through Celite® and the filtrate concentrated under vacuum. The resulting residue was dissolved in ethyl acetate and the organic phase washed with saturated aqueous sodium bicarbonate, dried over sodium sulfate and concentrated under vacuum. The resulting residue was purified by column chromatography on silica gel (gradient: 0 to 3% methanol in DCM) to afford 822 mg (46%) of racemic cis 6-benzenesulfonyl-1-(1-benzyl-3-methyl-piperidin-4-yl)-1,6-dihydro-1,2,3,5,6-tetraaza-as-indacene, 523 mg (29%) of racemic trans 6-benzenesulfonyl-1-(1-benzyl-3-methyl-piperidin-4-yl)-1,6-dihydro-1,2,3,5,6-tetraaza-as-indacene and 203 mg (10%) of N-[1-benzenesulfonyl-4-(1-benzyl-3-methyl-piperidin-4-yl amino)-1H-pyrrolo[2,3-b]pyridin-5-yl]-acetamide. Analysis for racemic cis 6-benzenesulfonyl-1-(1-benzyl-3-methyl-piperidin-4-yl)-1,6-dihydro-1,2,3,5,6-tetraaza-as-indacene: LCMS (Method I, ESI): RT=2.33 min, m+H=486.3; 1H NMR (400 MHz, CDCl3) δ: 8.92 (s, 1H), 8.26-8.21 (m, 2H), 7.96 (s, 1H), 7.80 (d, 1H), 7.56-7.44 (m, 3H), 7.35-7.32 (m, 4H), 7.29-7.24 (m, 1H), 6.70 (d, 1H), 4.64 (dt, 1H), 3.62 (d, 1H), 3.52 (d, 1H), 3.20-3.09 (m, 1H), 2.88 (m, 1H), 2.60 (m, 1H), 2.48-2.38 (m, 2H), 2.27 (td, 1H), 2.04 (s, 1H), 0.83 (d, 3H). Analysis for racemic trans 6-benzenesulfonyl-1-(1-benzyl-3-methyl-piperidin-4-yl)-1,6-dihydro-1,2,3,5,6-tetraaza-as-indacene: LCMS (Method I, ESI): RT=2.37 min, m+H=486.3; 1H NMR (400 MHz, CDCl3) δ: 8.91 (s, 1H), 8.26 (m, 2H), 8.05-7.96 (br s, 1H), 7.87-7.77 (br s, 1H), 7.50 (m, 3H), 7.35 (m, 4H), 7.30 (m, 1H), 6.79 (br s, 1H), 4.05 (br s, 1H), 3.60 (s, 2H), 3.14-3.04 (m, 3H), 2.40-1.85 (m, 3H), 1.63-1.54 (m, 1H), 0.78-0.66 (m, 3H). Analysis for N-[1-Benzenesulfonyl-4-(1-benzyl-3-methyl-piperidin-4-ylamino)-1H-pyrrolo[2,3-b]pyridin-5-yl]-acetamide: LCMS (Method I, ESI): RT=2.26 min, m+H=518.3; 1H NMR (400 MHz, CDCl3) δ: 8.19-8.12 (m, 1H), 8.08 (d, 2H), 7.84 (s, 1H), 7.79 (s, 1H), 7.59-7.37 (m, 5H), 7.33-7.26 (m, 3H), 6.52 (d, 1H), 3.89 (s, 1H), 3.56 (m, 2H), 2.48-2.37 (m, 3H), 2.20 (s, 3H), 2.04 (s, 3H), 1.82-1.77 (m, 2H), 0.95-0.89 (m, 3H).

reactant | racemic (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-(1-benzyl-3-methyl-piperidin-4-yl)-amine | 3.7 mmol, 1.88 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2C(CN(CC2)CC2=CC=CC=C2)C)[N+](=O)[O-] | C26H27N5O4S
reactant | triethyl orthoformate | 10.0 mmol, 1.66 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 30.0 mmol, 1.68 g | [Fe] | Fe
product | N-[1-benzenesulfonyl-4-(1-benzyl-3-methyl-piperidin-4-yl amino)-1H-pyrrolo[2,3-b]pyridin-5-yl]-acetamide | 203 mg, 10% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2C(CN(CC2)CC2=CC=CC=C2)C)NC(C)=O | C28H31N5O3S
